Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
transfer for NICU proximity, pre-eclampsia, substance use 
 
Major Surgical or Invasive Procedure:
none at ___

 
Physical Exam:
Physical Exam on Discharge: 
VS: Afebrile, Vital signs stable 
Neuro/Psych: no acute distress, Oriented x3, Affect Normal 
Heart: regular rate and rhythm
Lungs: clear to auscultation bilaterally
Abdomen: soft, appropriately tender, fundus firm, incision 
clean/dry/intact
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 
 
Pertinent Results:
Labs on Admission:

___ 11:35PM BLOOD WBC-6.8 RBC-3.34* Hgb-7.2* Hct-24.2* 
MCV-73* MCH-21.6* MCHC-29.8* RDW-17.8* RDWSD-46.3 Plt ___
___ 11:35PM BLOOD Creat-0.6
___ 11:35PM BLOOD ALT-14 AST-31
___ 11:35PM BLOOD UricAcd-3.7

Relevant Labs:

___ 05:15AM BLOOD WBC-7.7 RBC-3.18* Hgb-6.9* Hct-23.2* 
MCV-73* MCH-21.7* MCHC-29.7* RDW-17.9* RDWSD-46.5* Plt ___
___ 05:15AM BLOOD Creat-0.6
___ 05:15AM BLOOD ALT-13 AST-29
___ 05:15AM BLOOD UricAcd-3.7
___ 07:30PM BLOOD WBC-10.1* RBC-3.84* Hgb-8.6* Hct-28.7* 
MCV-75* MCH-22.4* MCHC-30.0* RDW-18.6* RDWSD-49.6* Plt ___
___ 07:30PM BLOOD Creat-0.6
___ 07:30PM BLOOD ALT-15 AST-33
___ 07:30PM BLOOD UricAcd-3.1
___ 05:00AM BLOOD WBC-6.5 RBC-4.02 Hgb-9.4* Hct-30.4* 
MCV-76* MCH-23.4* MCHC-30.9* RDW-19.2* RDWSD-51.8* Plt ___
___ 05:00AM BLOOD Glucose-65* UreaN-8 Creat-0.6 Na-139 
K-3.9 Cl-105 HCO3-24 AnGap-10
___ 05:00AM BLOOD Calcium-7.9* Phos-2.9 Mg-2.0 UricAcd-3.3
 
Brief Hospital Course:
Ms. ___ was transferred from ___ on ___ after a 
repeat low transverse cesarean section and bilateral tubal 
ligation on ___ for NICU proximity. Her hospital course at 
___ was complicated by an anaphylactic reaction to 
hemabate with bronchospasm requiring intubation. Patient was 
extubated and stable on arrival to ___. Her post-partum course 
was complicated by pre-clampsia, severe by BPs. She received 24 
hours of IV magnesium postpartum prior to transfer. Her PIH labs 
on admission with within normal limits and urine P:C was 0.36. 
She required multiple doses of short acting anti-hypertensives 
during her hospitalization for sustained severe range blood 
pressures. She was also started on long-acting 
anti-hypertensives.  On ___, patient was started on Nifedipine 
30mg BID. On ___, patient had sustained severe range BPs with 
changes in vision and was transferred to L&D for another dose of 
IV magnesium. Her PIH labs were repeated and within normal 
limits. Patient received 8 hours of IV magnesium. Due to 
continued elevated BPs, patient was uptitrated to Nifedipine 
60mg BID and labetalol 200mg TID. On ___, patient again had 
severe range blood pressures and was titrated up to Nifedipine 
60mg BID and labetablol 400mg TID. Later that evening, patient 
again had a severe range BP and was uptitrated to Nifedipine 
60mg and Labetalol 600mg TID. Her blood pressures then remained 
well controlled. 

Her post-partum course was also complicated by acute on chronic 
anemia. Her EBL at delivery was 680cc. Her HCT on ___ was 23.2 
and decision was made to transfuse 2 units of packed red blood 
cells. Her HCT responded appropriately to 28.7. Patient then 
remained asymptomatic with no further transfusion requirements. 

By postpartum day #6, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled.
 
Medications on Admission:
- PNV
- subutex ___
- sertraline 150mg 
- vitamin D3
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
5.  Labetalol 200 mg PO TID 
RX *labetalol 200 mg 3 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*1 
6.  NIFEdipine (Extended Release) 60 mg PO BID 
RX *nifedipine 60 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth daily Refills:*0 
8.  Buprenorphine 16 mg SL DAILY  
9.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
term gestation, severe preeclampsia, history of cesarean 
delivery, desired sterilization

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking narcotics (i.e. Dilaudid, Percocet)
Do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
shortness of breath, dizziness, palpitations, fever of 100.4 or 
above, abdominal pain, increased redness or drainage from your 
incision, nausea/vomiting, heavy vaginal bleeding, or any other 
concerns.
 
Followup Instructions:
___